US04577019
Menadione bisulfite-histidine adduct.
16 g of histidine hydrochloride was dissolved in 50 g of a 6% solution of hydrochloric acid. To this solution, 25 g of powdery menadione sodium bisulfite was added within about 1/2 hour. A white, very fine precipitate was obtained, which, after filtering, washing and vacuum drying, weighed 26 g and had the following analysis:

reactant | histidine hydrochloride | 16 g | Cl.N[C@@H](CC1=CNC=N1)C(=O)O
reactant | menadione sodium bisulfite | 25 g | CC1(CC(=O)C=2C=CC=CC2C1=O)S(=O)(=O)[O-].O.O.O.[Na+]
solvent | hydrochloric acid | Cl | ClH
product | Menadione bisulfite histidine | CC1(CC(=O)C2=CC=CC=C2C1=O)S(=O)(=O)O.N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C11H10O5S.C6H9N3O2/c1-11(17(14,15)16)6-9(12)7-4-2-3-5-8(7)10(11)13;7-5(6(10)11)1-4-2-8-3-9-4/h2-5H,6H2,1H3,(H,14,15,16);2-3,5H,1,7H2,(H,8,9)(H,10,11)/t;5-/m.0/s1
